US05068371
3-Chloro-2,2-dimethyl-N-[(2,4-difluorophenyl)methyl]propanamide
28.6 g (0.20 mol) of 2,4-difluorobenzylamine and 19.0 g (0.24 mol) of pyridine are dissolved in 100 ml of toluene. 34.1 g (0.22 mol) of chloropivaloyl chloride are added dropwise to this solution at 20°-25° C. over the course of 15 minutes with ice-bath cooling. A suspension forms and is stirred for a further 3 hours at room temperature until the reaction is complete (GC check). For work-up, the pH is adjusted to between 1 and 2 using 50 ml of 2N hydrochloric acid. The white emulsion produced is extracted three times with 100 ml of toluene. The extract is washed with 100 ml of water, dried using magnesium sulfate and evaporated on a vacuum rotary evaporator. 49.2 g (94% of theory) of a yellow oil are obtained.

reactant | 2,4-difluorobenzylamine | 0.20 mol, 28.6 g | FC1=C(CN)C=CC(=C1)F | C7H7F2N
reactant | pyridine | 0.24 mol, 19.0 g | N1=CC=CC=C1 | C5H5N
reactant | chloropivaloyl chloride | 0.22 mol, 34.1 g | ClCC(C(=O)Cl)(C)C | C5H8Cl2O
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Chloro-2,2-dimethyl-N-[(2,4-difluorophenyl)methyl]propanamide | ClCC(C(=O)NCC1=C(C=C(C=C1)F)F)(C)C | C12H14ClF2NO
